US04673631
(Synthesis of N-phenylanthranilic acid cobalt chelate)
24.9 g (0.1 mol) of cobalt acetate was added to 500 ml of dimethylformamide and completely dissolved. The solution was heated to 50° C., and 42.6 g (0.2 mol) of N-phenylanthranilic acid was gradually added thereto. The mixture was allowed to react for 3 hours at about 145° C. under refluxing, and the heating was terminated. The mixture, when cooled down to 100° C., was dispersed in 2 liters of water and, after 1 hour, subjected to filtration. The precipitate was washed with water until neutrality and then dried at 90° C., whereby about 40 g of pale reddish grey powder.

reactant | cobalt acetate | 0.1 mol, 24.9 g | C(C)(=O)[O-].[Co+2].C(C)(=O)[O-]
reactant | N-phenylanthranilic acid | 0.2 mol, 42.6 g | C1(=CC=CC=C1)NC=1C(C(=O)O)=CC=CC1 | C13H11NO2
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | N-phenylanthranilic acid cobalt | [Co].C1(=CC=CC=C1)NC=1C(C(=O)O)=CC=CC1 | InChI=1S/C13H11NO2.Co/c15-13(16)11-8-4-5-9-12(11)14-10-6-2-1-3-7-10;/h1-9,14H,(H,15,16);
